US09260427B2
To tert-butyl 4-(4-(heptyloxy)phenyl)-3-oxopiperazine-1-carboxylate (540 mg, 1.38 mmol) was added 4M HCl in dioxane (2.07 mL, 8.30 mmol). The reaction mixture was stirred at room temperature for 2 h. The precipitate was filtered, washed with hexane (5 mL) and dried. The crude product was purified by column chromatography (79/20/1 DCM/MeOH/NH4) to afford 325 mg (80%) of 1-(4-(heptyloxy)phenyl)piperazin-2-one as a colorless solid. LCMS-ESI (m/z) calculated for C17H26N2O2: 290.4. found 291.0 [M+H]+, tR=1.49 min. (Method 4).

reactant | tert-butyl 4-(4-(heptyloxy)phenyl)-3-oxopiperazine-1-carboxylate | 1.38 mmol, 540 mg | C(CCCCCC)OC1=CC=C(C=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C22H34N2O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 8.30 mmol, 2.07 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(heptyloxy)phenyl)piperazin-2-one | 325 mg, 80% | C(CCCCCC)OC1=CC=C(C=C1)N1C(CNCC1)=O | C17H26N2O2
